US07365085B2
b) (2-chloro-3-trifluoromethyl-benzyl)-(2-thiophen-2-yl-propyl)-amine
To a solution of 2-thiophen-2-yl-propionaldehyde (100 mg, 0.7 mmol) in dry dichloromethane (20 ml) was added 2-chloro-3-trifluoromethyl-benzylamine (30 mg, 0.14 mmol) followed by the addition of sodium triacetoxyborohydride (60.5 mg, 0.28 mmol). After the resulting mixture was stirred at room temperature overnight water was added to quench the reaction. The aqueous layer was extracted with ethyl acetate. The combined organic layers was washed with brine, dried over sodium sulfate and concentrated in vacco. The crude mixture was purified by silica gel column chromatograph using EtOAc:Hexane/25:75 as the eluent to give 50 mg (40% yield) of the title compound as an oil. MS m/e 334.4 (M+H)+.

reactant | 2-thiophen-2-yl-propionaldehyde | 0.7 mmol, 100 mg | S1C(=CC=C1)C(C=O)C | C7H8OS
reactant | 2-chloro-3-trifluoromethyl-benzylamine | 0.14 mmol, 30 mg | ClC1=C(CN)C=CC=C1C(F)(F)F | C8H7ClF3N
reactant | sodium triacetoxyborohydride | 0.28 mmol, 60.5 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | water | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | Hexane | CCCCCC | C6H14
product | (2-chloro-3-trifluoromethyl-benzyl)-(2-thiophen-2-yl-propyl)-amine | 50 mg, 40% yield | ClC1=C(CNCC(C)C=2SC=CC2)C=CC=C1C(F)(F)F | C15H15ClF3NS
